US04772600
5-Chloro-2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetamide hydrate [1:1]
A suspension of 5-chloro-2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid (3.1 g, 0.00963 mole) and 1,1'-carbonyldiimidazole (1.56 g, 0.00963 mole) in tetrahydrofuran (100 ml) was refluxed under nitrogen for 1.5 hours, cooled to room temperature, and a stream of nitrogen was bubbled through the solution for one hour. The solution was cooled in a dry ice/acetone bath and liquid ammonium (50 ml) was added. The reaction mixture was allowed to warm to room temperature and was stirred at room temperature for two days. The solvents were removed under reduced pressure and the solid was triturated in water (100 ml), collected by filtration, and rinsed twice with water, twice with a 5% potassium hydroxide solution, and twice again with water. The solid was recrystallized twice for isopropyl alcohol/water and dried under high vacuum at 70° C. to give 1.78 g (54%) of title cmpound, mp>250° C.

reactant | 5-chloro-2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.00963 mole, 3.1 g | ClC1=CC=C2C(=N1)N(C(=N2)C2=CC=C(C=C2)Cl)CC(=O)O | C14H9Cl2N3O2
reactant | 1,1'-carbonyldiimidazole | 0.00963 mole, 1.56 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 5-Chloro-2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetamide hydrate | O.ClC1=CC=C2C(=N1)N(C(=N2)C2=CC=C(C=C2)Cl)CC(=O)N | InChI=1S/C14H10Cl2N4O.H2O/c15-9-3-1-8(2-4-9)13-18-10-5-6-11(16)19-14(10)20(13)7-12(17)21;/h1-6H,7H2,(H2,17,21);1H2
